US07119086B2
A) 5-Chloro-1-[(2,4-dimethoxyphenyl)sulphonyl]-1H-indole-2,3-dione
0.5 g of 60% sodium hydride in oil is added to a mixture of 3.6 g of 5-chloro-1H-indole-2,3-dione in 20 ml of DMF, and the mixture is stirred for 30 minutes at 20° C. 4.8 g of 2,4-dimethoxybenzenesulphonyl chloride are then added and the mixture is stirred at 20° C. for 1 hour. The resulting mixture is concentrated under vacuum (1.3 Pa), the residue is extracted with EtOAc, the organic phase is washed with water and dried over Na2SO4, and the solvent is evaporated off under vacuum. The residue is triturated in iso ether and the precipitate formed is filtered off by suction. 2.9 g of the expected product are obtained after crystallization from hot EtOAc, m.p.=194.5° C.

reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | 5-chloro-1H-indole-2,3-dione | 3.6 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | 2,4-dimethoxybenzenesulphonyl chloride | 4.8 g | COC1=C(C=CC(=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-Chloro-1-[(2,4-dimethoxyphenyl)sulphonyl]-1H-indole-2,3-dione | 2.9 g | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=C(C=C(C=C1)OC)OC)=O)=O | C16H12ClNO6S
